2185-11-22 07:51:00 Physician Resident Progress Note
Chief Complaint: EtOH/HCV cirrhosis-related variceal bleed at OSH with
   rebleed and transfer to [**Hospital1 1**] ICU.
   24 Hour Events:
 ENDOSCOPY - At [**2185-11-21**] 05:45 PM
   pt scoped at bedside by gi team, received fent 300mcg and versed 4mg
   for procedure, 3 bands placed, ngt placed by gi team follwoing
   procedure
 BLOOD CULTURED - At [**2185-11-21**] 11:45 PM
   - Active bleeding on EGD last night
   - Given two units
   - On octreotide and pantoprazole i.v.
   - Broadly covered with vanc/cipro/meropenem
   - Sister became Health Care Proxy
   - PNA on CXR with slightly atypical border
   - Ascites on u/s and exam
   Allergies:
   Codeine
   Nausea/Vomiting
   Penicillins
   Rash;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2185-11-21**] 11:40 PM
   Meropenem - [**2185-11-22**] 04:00 AM
   Vancomycin - [**2185-11-22**] 07:19 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2185-11-21**] 06:30 PM
   Fentanyl - [**2185-11-21**] 06:30 PM
   Lorazepam (Ativan) - [**2185-11-22**] 12:23 AM
   Other medications:
   Changes to medical and family history:
   Sisters said patient likely to pull lines and may require some
   sedation.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-11-22**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**87**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.6
C (99.7
   HR: 79 (65 - 136) bpm
   BP: 119/63(76) {111/48(67) - 166/82(100)} mmHg
   RR: 16 (13 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,788 mL
                                                                    623 mL
   PO:
             TF:
   IVF:
                                                                  1,088 mL
                                                                    623 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                    660 mL
                                                                    600 mL
   Urine:
                                                                    600 mL
                                                                    450 mL
   NG:
                                                                     60 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,128 mL
                                                                     23 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///20/
   Physical Examination
   General: Chronically ill appearing.  Alert, oriented, no acute
   distress. Coffee ground fluid in NGT suction jar with now clear bilious
   liquid in tube. About 150mL of the latter since 7 a.m. and 500 mL since
   arrival last night, total.
   HEENT: Sclera anicteric, PERRL (3->2), EOMs intact with few beats
   horizontal nystagmus, MM slightly dry, oropharynx clear.
   Neck: supple, JVD flat, no LAD
   Lungs: + bibasilar crackles R>L, clear almost entirely with cough.  Few
   wheezes when coughing.
   CV: Regular rate and rhythm, normal S1 + S2, soft SM at apex.
   Abdomen:  Soft, non-tender, some distension, hyperactive bowel sounds
   present, no rebound tenderness or guarding.  mostly tympanic with some
   shifting dullness.
   Ext: warm, well perfused, 2+ LE edema.
   Neuro: Alerted and oriented x 3, with sleepiness. CN II-XII intact,
   tone normal, strength full throughout. No asterixis. Gait not assessed.
   Labs / Radiology
   91 K/uL
   12.1 g/dL
   118 mg/dL
   0.8 mg/dL
   20 mEq/L
   4.3 mEq/L
   16 mg/dL
   111 mEq/L
   138 mEq/L
   34.7 %
   28.3 K/uL
        [image002.jpg]
                             [**2185-11-21**]  05:12 PM
                             [**2185-11-22**]  12:03 AM
                             [**2185-11-22**]  04:35 AM
   WBC
   10.2
   28.8
   28.3
   Hct
   31.7
   34.0
   34.7
   Plt
   83
   91
   Cr
   0.7
   0.8
   Glucose
   110
   118
   Other labs: PT / PTT / INR:16.1/27.3/1.4, ALT / AST:34/41, Alk Phos / T
   Bili:50/3.0, Differential-Neuts:79.7 %, Lymph:14.5 %, Mono:4.3 %,
   Eos:1.1 %, Albumin:2.4 g/dL, LDH:185 IU/L, Ca++:6.9 mg/dL, Mg++:2.0
   mg/dL, PO4:2.5 mg/dL
   Imaging: Left lateral lung excluded from the field of view. Right lung
   is clear.
   Heart/mediastinal borders unremarkable. Large opacity is noted in the
   left
   lower lobe and is incompletely imaged.
   Microbiology: Contaminated sputum.
   No growth on blood cultures.
   Assessment and Plan
   55M with EtOH/HCV cirrhosis, admitted to OSH with variceal bleed, now
   transferred to [**Hospital1 1**] MICU for management of recurrent bleeding, EGD
   with active bleeding last night and three bands.  Now stable crit and
   increased WBC count, abnormal CXR
 overall concerning for SBP versus
   PNA. Liver will consult on TIPS and its timing.
   # Upper GI bleed: Demonstrated as secondary to esophageal varices.
   These were sclerosed earlier during his OSH admission and are now
   banded.  His crit is stable, so bleeding appears to be controlled.
   Differential also includes portal hypertensive gastropathy, PUD,
   gastritis, esophagitis, [**Doctor First Name **] [**Doctor Last Name **].  Seems to have had two large
   bleeds earlier this admission, with more recent BRBPR followed by
   smaller volume hematemesis today. IR aware.
   - NPO
   - Close airway monitoring; low threshold to intubate.
   - PPI gtt.
   - Octreotide gtt.
   - Cipro for SBP prophylaxis during bleed (has cephalosporin allergy).
   - Keep INR < 1.5, platelets > 50, Hct >30.
   - If acutely decompensating, will need intubation, trauma line or
   cordis, emergent TIPS with IR
   # Ascites
   Less likely blood, more likely ascites. Possible SBP given leukocytosis
   now of 28. Consider albumin and later nutritional supplementation.
   - Diagnostic tap today as decision point for SBP Rx, albumin, etc.
   # PNA and Crackles in bases
   Less likely aspiration given radiographic appearance. Oblique margin
   slightly unusual. Crackles in bases also, suggestive some possible
   fluid overload (even though exam not significant for fluid overload
   otherwise)
   - Continue broad coverage (actually for SBP also)
   - Consider diuresis depending on above w/u and if dyspneic
   - Follow cultures and send sputum and blood cultures
   # Hepatic encephalopathy.  Per OSH report has been encephalopathic
   today (vs. effect of sedating meds); here appears only minimally
   encephalopathic, no asterixis, only short sleep onset latency.
   - Ultrasound and consider diagnostic tap (though treating for SBP right
   now); if positive would need long term prophylaxis and IV albumin on
   day 1 and 3.
   - Consider lactulose/rifaximin once taking PO.
   # ESLD.  Hep C and EtOH as above.  Actively drinking.
   - Consider future diuretics or to help if should become dyspneic.
   - Consider therapeutic tap once stable if large amount of ascites
   present.
   - Management of varices as above.  Consider nadolol if not going to
   TIPS.
   - Consider lactulose/rifaximin once taking PO.
   # Abnormal pulmonary exam.  ?fluid vs. pneumonia vs. atelectasis vs
   aspiration.  Crackles mostly clear with cough.  Did have new O2
   requirement during OSH hospital course.
   - CXR now.
   - Continue O2 therapy.
   # EtOH abuse.
   - thiamine and folate + multi
   - No benzo requirements x 10 days at OSH and aspiration/encephalopathy
   concerns therefore no CIWA
   # Tobacco abuse.
   - Nicotine patch.
   # FEN: No IVF, replete electrolytes, NPO
   # Prophylaxis: boots, PPI.
   # Access: peripherals - 18 gauge x 3; trauma line or cordis is greater
   hematemesis.
   # Communication: Patient and sister is Health [**Name (NI) 232**] Proxy
 form in
   chart.
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2185-11-21**] 05:08 PM
   20 Gauge - [**2185-11-21**] 05:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2185-11-24 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Hypoxia received 20mg IV lasix.  [**12-20**] poor device. patient actually
   95% with good [**Location (un) 103**].
   - Transfused 2 units pRBCs -> 39.5
   - IVF overnight 175 cc hour, 5AM pressure to 88/40s HR stable in 80s,
   bolused 500cc ->100's/60's
   - TIPS in AM with IR
   - Spiked to 101.3 - blood cultures, UA and Urine Cultures sent, Ordered
   for C. Diff toxin.
   - Call Sister prior to TIPS procedure in the morning.
   Allergies:
   Codeine
   Nausea/Vomiting
   Penicillins
   Rash;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2185-11-22**] 11:39 AM
   Vancomycin - [**2185-11-23**] 08:35 PM
   Meropenem - [**2185-11-24**] 06:22 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2185-11-23**] 04:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-11-24**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**87**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.4
C (101.2
   HR: 86 (76 - 97) bpm
   BP: 101/50(63) {83/32(45) - 158/89(108)} mmHg
   RR: 31 (16 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,800 mL
                                                                  2,074 mL
   PO:
             TF:
   IVF:
                                                                  2,100 mL
                                                                  2,074 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  2,550 mL
                                                                    470 mL
   Urine:
                                                                  2,050 mL
                                                                    270 mL
   NG:
                                                                    150 mL
                                                                    200 mL
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                    250 mL
                                                                  1,607 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.52/28/52/23/0
   Physical Examination
   General: Chronically ill appearing. Alert, oriented, no acute distress.
   NG tube in place.
   HEENT: Sclera anicteric, Dry Mucous Membranes,, oropharynx clear.
   Neck: supple, JVD flat, no LAD
   Lungs: Crackles at bases bilaterally.
   CV: Regular rate and rhythm, normal S1 + S2, soft SM at apex.  , +BS,
   no rebound tenderness or guarding.
   Abdomen: soft, non-tender, mild distension
   Ext: warm, well perfused, 2+ LE edema.
   Neuro: alerted and oriented x 3, CN II-XII intact, strength 5/5 in
   distal UEs and LEs, no asterixis
   Labs / Radiology
   97 K/uL
   12.4 g/dL
   125 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.8 mEq/L
   16 mg/dL
   109 mEq/L
   137 mEq/L
   35.7 %
   20.0 K/uL
        [image002.jpg]
                             [**2185-11-21**]  05:12 PM
                             [**2185-11-22**]  12:03 AM
                             [**2185-11-22**]  04:35 AM
                             [**2185-11-22**]  12:44 PM
                             [**2185-11-23**]  02:45 PM
                             [**2185-11-23**]  03:28 PM
                             [**2185-11-23**]  03:34 PM
                             [**2185-11-23**]  07:39 PM
                             [**2185-11-23**]  11:44 PM
                             [**2185-11-24**]  03:58 AM
   WBC
   10.2
   28.8
   28.3
   20.0
   Hct
   31.7
   34.0
   34.7
   32.5
   33.3
   35
   39.5
   37.7
   35.7
   Plt
   83
   91
   115
   97
   Cr
   0.7
   0.8
   0.8
   TCO2
   24
   Glucose
   110
   118
   125
   Other labs: PT / PTT / INR:17.9/29.5/1.6, ALT / AST:25/43, Alk Phos / T
   Bili:48/3.5, Differential-Neuts:80.0 %, Band:0.0 %, Lymph:7.0 %,
   Mono:13.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL,
   LDH:372 IU/L, Ca++:6.8 mg/dL, Mg++:1.5 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR Pending
   Microbiology: Blood/Urine: Pending
   HCV VL: Pending
   Assessment and Plan
   55M with EtOH/HCV cirrhosis, admitted to OSH with variceal bleed,
   transferred back to [**Hospital1 1**] MICU for management of recurrent GI
   bleeding.
   .
   # Upper vs Lower GI bleed:  In cirrhotic patient with known esophageal
   varices, which were banded on [**11-21**]. Colonoscopy on [**11-21**] at OSH negative
   for source of bleeding. NG lavage last night after transfer to MICU
   positive. Patient with one melanotic stool. Most likely represent upper
   GI source.
   - TIPS today
   - hold nadolol in the setting of acute bleed
   - NPO.
   - Close airway monitoring; low threshold to intubate.
   - PPI gtt.
   - Octreotide gtt.
   - Meropenem for SBP prophylaxis during bleed (has cephalosporin
   allergy).  (Meropenem for broad spectrum coverage for HAP)
   - Keep INR < 1.5, platelets > 50, Hct >30.
   - FFP prior to procedure per IR recommendations.
   - If acutely decompensating, will need intubation, trauma line or
   cordis, emergent TIPS.
   .
   # Fever/Leukocytosis: Currently being treated for HAP. CXR this AM with
   stable findings. Fever increased white count may be related to
   aspiration pneumonitis given CT scan findings.
   - Continue Vancomycin and Meropenem -day 1 = [**11-21**]
   - FU CXR AM
   - Sputum Cultures
   - FU Blood Cultures
   - FU Urine Cultures
   - C. Diff Toxin
   - Consider double coverage for pseudomonas if decompensates.
   .
   # Hepatic encephalopathy. Per OSH report has been encephalopathic,
   however today patient does not appear encephalopathic, no asterixis.
   Diagnostic paracentesis on this admission negative for SBP.
   - Continue lactulose/rifaximin once taking PO.
   .
   # ESLD. Hep C and EtOH as above. Actively drinking.
   - Diuretic regimen sp TIPS today.
   - IR will evaluate for therapeutic tap during procedure, Albumin if
   Large Volume sp Tap, Fu with IR
   - Management of varices as above.
   - Continue lactulose/rifaximin once taking Pos.
   .
   # Dyspnea: Sats mid 90s on 4L. Crackles at bases bilaterally, and
   patient did receive IV fluids prior to transfer and overnight given
   borderline blood pressures. On Vancomycin and Meropenem for hospital
   acquired pneumonia.
   - continue Vancomycin and Meropenem -day 1 = [**11-21**]
   - FU CXR
   - Continue O2 therapy.
   - Lasix  once blood pressure stablilizes sp procedure.
   .
   # EtOH abuse.
   - thiamine and folate.
   .
   # Tobacco abuse.
   - Nicotine patch.
   .
   # FEN: No IVF, replete electrolytes, NPO
   # Prophylaxis: boots, PPI.
   # Access: peripherals - 18 gauge x 2
   # Communication: Patient and Sister, [**Name (NI) **], [**Telephone/Fax (1) 10277**]
   # Code: Full (confirmed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition: Advance Diet
   Lines:
   20 Gauge - [**2185-11-23**] 05:17 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   Comments:
   Communication:  Comments: Sister, [**Name (NI) **], [**Telephone/Fax (1) 10277**]
   Code status: Full code
   Disposition: ICU

2185-11-25 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ESLD, Upper GI Bleed
   24 Hour Events:
   - Diet was advanced to clears - felt as if something caught after
   trying. Could not see anything.
   - Given ativan for sleep last night
   Allergies:
   Codeine
   Nausea/Vomiting
   Penicillins
   Rash;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2185-11-22**] 11:39 AM
   Vancomycin - [**2185-11-24**] 08:04 PM
   Meropenem - [**2185-11-25**] 05:45 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-11-25**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**87**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.9
C (100.3
   HR: 80 (72 - 92) bpm
   BP: 107/49(64) {87/41(51) - 143/82(86)} mmHg
   RR: 24 (5 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  6,002 mL
                                                                  1,599 mL
   PO:
             TF:
   IVF:
                                                                  6,002 mL
                                                                  1,599 mL
   Blood products:
   Total out:
                                                                  1,385 mL
                                                                    820 mL
   Urine:
                                                                    885 mL
                                                                    320 mL
   NG:
                                                                    500 mL
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                  4,617 mL
                                                                    779 mL
   Respiratory support
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General: Chronically ill appearing. Alert, oriented, no acute distress.
   NG tube in place.
   HEENT: Sclera anicteric, Dry Mucous Membranes,, oropharynx clear.
   Neck: supple, JVD flat, no LAD
   Lungs: Crackles at bases bilaterally.
   CV: Regular rate and rhythm, normal S1 + S2, soft SM at apex.  , +BS,
   no rebound tenderness or guarding.
   Abdomen: soft, non-tender, mild distension
   Ext: warm, well perfused, 2+ LE edema.
   Neuro: alerted and oriented x 3, CN II-XII intact, strength 5/5 in
   distal UEs and LEs, no asterixis
   Labs / Radiology
   86 K/uL
   11.8 g/dL
   124 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.7 mEq/L
   18 mg/dL
   110 mEq/L
   137 mEq/L
   34.2 %
   17.5 K/uL
        [image002.jpg]
                             [**2185-11-23**]  02:45 PM
                             [**2185-11-23**]  03:28 PM
                             [**2185-11-23**]  03:34 PM
                             [**2185-11-23**]  07:39 PM
                             [**2185-11-23**]  11:44 PM
                             [**2185-11-24**]  03:58 AM
                             [**2185-11-24**]  08:27 AM
                             [**2185-11-24**]  05:02 PM
                             [**2185-11-24**]  10:36 PM
                             [**2185-11-25**]  03:33 AM
   WBC
   20.0
   17.5
   Hct
   33.3
   35
   39.5
   37.7
   35.7
   34.1
   36.4
   36.0
   34.2
   Plt
   115
   97
   86
   Cr
   0.8
   0.7
   TCO2
   24
   Glucose
   125
   124
   Other labs: PT / PTT / INR:16.0/29.3/1.4, ALT / AST:25/37, Alk Phos / T
   Bili:48/2.4, Differential-Neuts:80.0 %, Band:0.0 %, Lymph:7.0 %,
   Mono:13.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL,
   LDH:344 IU/L, Ca++:6.8 mg/dL, Mg++:1.8 mg/dL, PO4:1.6 mg/dL
   Imaging: CXR: Pending
   Microbiology: HCV VIRAL LOAD (Final [**2185-11-24**]):
         1,420,000 IU/mL
   Blood Cultures: Pending
   Urine Cultures: Pending
   Sputum: Poor Specimen
   Assessment and Plan
   55M with EtOH/HCV cirrhosis, admitted to OSH with variceal bleed,
   transferred back to [**Hospital1 1**] MICU for management of recurrent GI
   bleeding.
   .
   # Upper vs Lower GI bleed:  In cirrhotic patient with known esophageal
   varices, which were banded on [**11-21**]. Colonoscopy on [**11-21**] at OSH negative
   for source of bleeding. NG lavage last night after transfer to MICU
   positive. Patient with one melanotic stool. Most likely represent upper
   GI source.
   - TIPS today
   - hold nadolol in the setting of acute bleed
   - NPO.
   - Close airway monitoring; low threshold to intubate.
   - PPI gtt.
   - Octreotide gtt.
   - Meropenem for SBP prophylaxis during bleed (has cephalosporin
   allergy).  (Meropenem for broad spectrum coverage for HAP)
   - Keep INR < 1.5, platelets > 50, Hct >30.
   - FFP prior to procedure per IR recommendations.
   - If acutely decompensating, will need intubation, trauma line or
   cordis, emergent TIPS.
   .
   # Fever/Leukocytosis: Currently being treated for HAP. CXR this AM with
   stable findings. Fever increased white count may be related to
   aspiration pneumonitis given CT scan findings.
   - Continue Vancomycin and Meropenem -day 1 = [**11-21**]
   - FU CXR AM
   - Sputum Cultures
   - FU Blood Cultures
   - FU Urine Cultures
   - C. Diff Toxin
   - Consider double coverage for pseudomonas if decompensates.
   .
   # Hepatic encephalopathy. Per OSH report has been encephalopathic,
   however today patient does not appear encephalopathic, no asterixis.
   Diagnostic paracentesis on this admission negative for SBP.
   - Continue lactulose/rifaximin once taking PO.
   .
   # ESLD. Hep C and EtOH as above. Actively drinking.
   - Diuretic regimen sp TIPS today.
   - IR will evaluate for therapeutic tap during procedure, Albumin if
   Large Volume sp Tap, Fu with IR
   - Management of varices as above.
   - Continue lactulose/rifaximin once taking Pos.
   .
   # Dyspnea: Sats mid 90s on 4L. Crackles at bases bilaterally, and
   patient did receive IV fluids prior to transfer and overnight given
   borderline blood pressures. On Vancomycin and Meropenem for hospital
   acquired pneumonia.
   - continue Vancomycin and Meropenem -day 1 = [**11-21**]
   - FU CXR
   - Continue O2 therapy.
   - Lasix  once blood pressure stablilizes sp procedure.
   .
   # EtOH abuse.
   - thiamine and folate.
   .
   # Tobacco abuse.
   - Nicotine patch.
   .
   # FEN: No IVF, replete electrolytes, NPO
   # Prophylaxis: boots, PPI.
   # Access: peripherals - 18 gauge x 2
   # Communication: Patient and Sister, [**Name (NI) **], [**Telephone/Fax (1) 10277**]
   # Code: Full (confirmed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-11-23**] 05:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2185-11-26 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ESLD sp Failed Tips
   24 Hour Events:
   - Vancomycin trough came back at 9.3; another trough ordered for 1/9AM.
   - CXR from [**11-25**] "overall, findings are consistent with aspiration, and
   incompletely treated pneumonia"; spoke with pharmacy and increased
   vancomycin to 1000mg q8hr per their recs.
   - IR not successful during procedure as could not pass line past
   fibrotic liver and >200cc/60 minutes fluoro exposure time. BPs low
   during procedure throughout procedure; took off 4L ascites. Recommend
   to reschedule for Monday.
   - Spoke with sister, [**Name (NI) 1648**], ([**Telephone/Fax (1) 10316**]) [**Name2 (NI) **]rding situation.
   - Gave albumin s/p paracentesis and sodium bicarb/acetylcysteine to
   prevent contrast induced nephropathy
   - Held lasix in the setting of concern for contrast induced nephropathy
   Allergies:
   Codeine
   Nausea/Vomiting
   Penicillins
   Rash;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2185-11-26**] 12:04 AM
   Vancomycin - [**2185-11-26**] 05:05 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-11-26**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**87**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 35.7
C (96.3
   HR: 50 (43 - 87) bpm
   BP: 110/54(75) {90/45(61) - 138/75(96)} mmHg
   RR: 16 (14 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 67 Inch
           Total In:
                                                                  3,862 mL
                                                                    813 mL
   PO:
           TF:
   IVF:
                                                                  3,862 mL
                                                                    763 mL
   Blood products:
   50 mL
   Total out:
                                                                  8,061 mL
                                                                    317 mL
   Urine:
                                                                  1,551 mL
                                                                    317 mL
   NG:
                                                                    700 mL
   Stool:
   Drains:
                                                                  5,000 mL
   Balance:
                                                                 -4,199 mL
                                                                    496 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (550 - 600) mL
   Vt (Spontaneous): 1,562 (1,562 - 1,562) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 80
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   Compliance: 46.2 cmH2O/mL
   SpO2: 99%
   ABG: 7.42/34/74/23/-1
   Ve: 8.7 L/min
   PaO2 / FiO2: 148
   Physical Examination
   General: Chronically ill appearing. Alert, oriented, no acute distress.
   NG tube in place.
   HEENT: Sclera anicteric, Dry Mucous Membranes,, oropharynx clear.
   Neck: supple, JVD flat, no LAD
   Lungs: Crackles at bases bilaterally.
   CV: Regular rate and rhythm, normal S1 + S2, soft SM at apex.  , +BS,
   no rebound tenderness or guarding.
   Abdomen: soft, non-tender, mild distension
   Ext: warm, well perfused, 2+ LE edema.
   Neuro: alerted and oriented x 3, CN II-XII intact, strength 5/5 in
   distal UEs and LEs, no asterixis
   Labs / Radiology
   135 K/uL
   11.7 g/dL
   118 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.8 mEq/L
   16 mg/dL
   111 mEq/L
   138 mEq/L
   34.9 %
   21.7 K/uL
        [image002.jpg]
                             [**2185-11-23**]  11:44 PM
                             [**2185-11-24**]  03:58 AM
                             [**2185-11-24**]  08:27 AM
                             [**2185-11-24**]  05:02 PM
                             [**2185-11-24**]  10:36 PM
                             [**2185-11-25**]  03:33 AM
                             [**2185-11-25**]  04:13 PM
                             [**2185-11-25**]  07:47 PM
                             [**2185-11-26**]  01:19 AM
                             [**2185-11-26**]  05:24 AM
   WBC
   20.0
   17.5
   26.1
   21.7
   Hct
   37.7
   35.7
   34.1
   36.4
   36.0
   34.2
   38
   37.4
   34.9
   Plt
   97
   86
   162
   135
   Cr
   0.8
   0.7
   0.6
   0.6
   TCO2
   25
   23
   Glucose
   125
   124
   112
   101
   118
   Other labs: PT / PTT / INR:15.2/30.3/1.3, ALT / AST:25/37, Alk Phos / T
   Bili:48/2.4, Differential-Neuts:80.0 %, Band:0.0 %, Lymph:7.0 %,
   Mono:13.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:2.4 g/dL,
   LDH:344 IU/L, Ca++:7.5 mg/dL, Mg++:1.6 mg/dL, PO4:1.9 mg/dL
   Imaging: CXR: Extensive consolidation in the left mid lung zone has
   stopped clearing, and
   consolidation at the right lung base is associated with more volume
   loss and
   at least a small right pleural effusion. Overall, findings are
   consistent
   with aspiration, and incompletely treated pneumonia. Nasogastric tube
   passes
   into the stomach and out of view. Heart size normal. No pneumothorax.
   Microbiology: Blood ([**11-24**]): Pending
   Assessment and Plan
   55M with EtOH/HCV cirrhosis, admitted to OSH with variceal bleed,
   transferred back to [**Hospital1 1**] MICU for management of recurrent GI
   bleeding.
   .
   # Upper vs Lower GI bleed:  In cirrhotic patient with known esophageal
   varices, which were banded on [**11-21**]. Colonoscopy on [**11-21**] at OSH negative
   for source of bleeding. NG lavage last night after transfer to MICU
   positive. No further melantic stool overnight. Most likely represent
   upper GI source.
   - TIPS today
   - hold nadolol in the setting of acute bleed
   - NPO.
   - PPI gtt.
   - Octreotide gtt.
   - Meropenem for SBP prophylaxis during bleed (has cephalosporin
   allergy).  (Meropenem for broad spectrum coverage for HAP)
   - Keep INR < 1.5, platelets > 50, Hct >30.
   .
   # Fever/Leukocytosis: Currently being treated for HAP. CXR this AM with
   stable findings. Fever increased white count likely related to HAP.
   Fever curve trending down.
   - Continue Vancomycin and Meropenem -day 1 = [**11-21**]
   - FU CXR AM
   - FU Sputum Cultures
   - FU Blood Cultures
   - FU Urine Cultures
   - C. Diff Toxin
   - Consider double coverage for pseudomonas if decompensates.
   .
   # Hypocalcemia: 8.2 when corrected for albumin
   - Ionized calcemium in the AM
   .
   # Hepatic encephalopathy. Per OSH report has been encephalopathic,
   however today patient does not appear encephalopathic, no asterixis.
   Diagnostic paracentesis on this admission negative for SBP.
   - Continue lactulose/rifaximin once taking PO.
   .
   # ESLD. Hep C and EtOH as above. Actively drinking.  HCV VL as above.
   - Diuretic regimen sp TIPS today.
   - IR will evaluate for therapeutic tap during procedure, Albumin if
   Large Volume sp Tap, Fu with IR
   - Management of varices as above.
   - Continue lactulose/rifaximin once taking Pos.
   - FU hepatology notes.
   .
   # Dyspnea: Sats mid 90s on 4L. Crackles at bases bilaterally, and
   patient did receive IV fluids prior to transfer and overnight given
   borderline blood pressures. On Vancomycin and Meropenem for hospital
   acquired pneumonia.
   - continue Vancomycin and Meropenem -day 1 =
   - DC IVF
   - FU CXR  in AM
   - Continue O2 therapy.
   - Lasix  once blood pressure stablilizes sp procedure.
   .
   # EtOH abuse.
   - thiamine and folate.
   .
   # Tobacco abuse.
   - Nicotine patch.
   .
   # FEN: No IVF, replete electrolytes, NPO
   # Prophylaxis: boots, PPI.
   # Access: peripherals - 18 gauge x 2
   # Communication: Patient and Sister, [**Name (NI) **], [**Telephone/Fax (1) 10277**]
   # Code: Full (confirmed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2185-11-25**] 07:06 PM
   20 Gauge - [**2185-11-25**] 09:37 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: To Floor

2185-11-27 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ESLD sp Failed Tips
   24 Hour Events:
   - Vancomycin trough 15.7 (recheck in am)
   - HCT 34.7 -> 33.5 ->35.1
   - GI Recs: Nothing New
   - IR Recs: Nothing New, Retry Monday?
   - Bronch: (Pt with bloody secretions in ET tube) Lots of fresh blood on
   the left, either GI bleed aspiration or hemoptysis from pneumonia.
   Consider CT chest if worsening.
   - FAmily notes +PPD in the past, unknown treatment. BAL with Acid Fast
   Stain and culture pending.
   - ABG sp Bronch 7.48/32/63 -> increased Fi02 to 70% from 60%
   ->7.48/36/103
   - Repeat CXR last night without significant interval change
   Allergies:
   Codeine
   Nausea/Vomiting
   Penicillins
   Rash;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2185-11-27**] 12:24 AM
   Vancomycin - [**2185-11-27**] 05:35 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Pantoprazole (Protonix) - 8 mg/hour
   Propofol - 60 mcg/Kg/min
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-11-27**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**87**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.9
C (98.5
   HR: 51 (49 - 80) bpm
   BP: 112/57(77) {89/44(60) - 145/80(97)} mmHg
   RR: 14 (14 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 67 Inch
             Total In:
                                                                  2,896 mL
                                                                    805 mL
   PO:
             TF:
   IVF:
                                                                  2,806 mL
                                                                    805 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  1,997 mL
                                                                    890 mL
   Urine:
                                                                  1,997 mL
                                                                    890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    899 mL
                                                                    -85 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 766 (766 - 766) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI: 126
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   Compliance: 54.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.46/37/166/26/3
   Ve: 7.7 L/min
   PaO2 / FiO2: 237
   Physical Examination
   General: Chronically ill appearing. Alert. Intubated.  NG tube in
   place.
   HEENT: Sclera anicteric, Dry Mucous Membranes,, oropharynx clear.
   Neck: supple, JVD flat, no LAD
   Lungs: Anterior lung fields with good air movement bilaterally.
   Course.
   CV: Regular rate and rhythm, normal S1 + S2, soft SM at apex.  , +BS,
   no rebound tenderness or guarding.
   Abdomen: soft, non-tender, mild distension
   Ext: warm, well perfused, 2+ LE edema.
   Neuro: alert with sedation weaned.
   Labs / Radiology
   121 K/uL
   12.3 g/dL
   121 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.5 mEq/L
   10 mg/dL
   110 mEq/L
   139 mEq/L
   37.1 %
   14.5 K/uL
        [image002.jpg]
                             [**2185-11-25**]  07:47 PM
                             [**2185-11-26**]  01:19 AM
                             [**2185-11-26**]  05:24 AM
                             [**2185-11-26**]  11:00 AM
                             [**2185-11-26**]  05:20 PM
                             [**2185-11-26**]  05:27 PM
                             [**2185-11-26**]  11:02 PM
                             [**2185-11-26**]  11:40 PM
                             [**2185-11-27**]  05:03 AM
                             [**2185-11-27**]  05:36 AM
   WBC
   26.1
   21.7
   14.5
   Hct
   37.4
   34.9
   34.7
   33.5
   35.1
   37.1
   Plt
   162
   135
   114
   101
   121
   Cr
   0.6
   0.6
   0.7
   TCO2
   23
   25
   28
   27
   Glucose
   101
   118
   121
   Other labs: PT / PTT / INR:16.3/30.0/1.4, ALT / AST:37/61, Alk Phos / T
   Bili:51/1.7, Differential-Neuts:80.0 %, Band:0.0 %, Lymph:7.0 %,
   Mono:13.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL,
   LDH:337 IU/L, Ca++:7.1 mg/dL, Mg++:1.5 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR: Pending
   Microbiology: Blood: Pending
   Urine: Pending
   BAL: Pending
   Assessment and Plan
   55M with EtOH/HCV cirrhosis, admitted to OSH with variceal bleed,
   transferred back to [**Hospital1 1**] MICU for management of recurrent GI
   bleeding.
   .
   # Upper vs Lower GI bleed:  In cirrhotic patient with known esophageal
   varices, which were banded on [**11-21**]. Colonoscopy on [**11-21**] at OSH negative
   for source of bleeding. No obvious bleeding over the last 2-3 days. No
   transfusion required.
   - TIPS repeat attempt most likely Monday
   - FU GI Recs
   - hold nadolol in the setting of acute bleed
   - NPO.
   - PPI gtt.
   - Octreotide gtt.
   - Meropenem for SBP prophylaxis during bleed (has cephalosporin
   allergy).  (Meropenem for broad spectrum coverage for HAP)
   - Keep INR < 1.5, platelets > 50, Hct >30.
   - [**Hospital1 **] HCT
   .
   # Intubation sp Procedure: Blood on suction yesterday. With some
   bleeding in left lower lobe indentified on Bronch.
   - CT chest today.
   - Plan to maintain intubation with hopes for repeat tips tomorrow.
   - DC propofol given hypotension and switch to versed/fentanyl
   - DC phenyephrine.
   .
   # Fever/Leukocytosis: Currently being treated for HAP. CXR this AM with
   stable findings. White count trending down. Patient did spike
   temperature yesterday, however this could be secondary to blood
   aspiration.
   - Continue Vancomycin and Meropenem -day 1 =
   - Vanc Trough
   - FU CXR AM
   - Sputum cultures with intubation.
   - FU Blood Cultures
   - FU Urine Cultures
   - C. Diff Toxin
   - Consider double coverage for pseudomonas if decompensates.
   ..
   # Hepatic encephalopathy. Per OSH report has been encephalopathic,
   however today patient does not appear encephalopathic, no asterixis.
   Diagnostic paracentesis on this admission negative for SBP.
   - Continue lactulose/rifaximin once taking PO.
   .
   # ESLD. Hep C and EtOH as above. Actively drinking.  HCV VL as above.
   - Diuretic regimen sp TIPS today.
   - IR will evaluate for therapeutic tap during procedure, Albumin if
   Large Volume sp Tap, Fu with IR
   - Management of varices as above.
   - Continue lactulose/rifaximin once taking Pos.
   - FU hepatology notes.
   .
   # Dyspnea: Continue Vancomycin and Meropenem for hospital acquired
   pneumonia. Diuresis sp TIPS.
   - continue Vancomycin and Meropenem -day 1 =
   - Extubate today
   - Continue O2 therapy.
   - Lasix  once blood pressure stablilizes sp procedure.
   .
   # EtOH abuse.
   - thiamine and folate.
   .
   # Tobacco abuse.
   - Nicotine patch.
   .
   # FEN: No IVF, replete electrolytes, NPO
   # Prophylaxis: boots, PPI.
   # Access: peripherals - 18 gauge x 2
   # Communication: Patient and Sister, [**Name (NI) **], [**Telephone/Fax (1) 10277**]
   # Code: Full (confirmed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition: NPO currently
   Lines:
   Arterial Line - [**2185-11-25**] 07:06 PM
   20 Gauge - [**2185-11-25**] 09:37 PM
   Prophylaxis:
   DVT:  Boots
   Stress ulcer: PPI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for Now

2185-11-28 06:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Hematocrit stable 35.1 -> 37.1 -> 35.1
   - TIPS tomorrow ([**11-28**])
   - BAL shows polys and negative AFB thin smear, further AFB thcik smear
   and culture pending.
   - No positive microbiology - blood, urine
   - CT chest done:
    1. Bilateral pleural effusions as well as ascites, most likely a
    sequela of the patient's known cirrhosis.
    2. Dependent consolidations and ground-glass density as above. In \
    the setting of effusions, these are most likely a component of
    atelectasis, with possible superimposed infectious component. This
    should be placed in context to the clinical presentation.
    3. No CT evidence to suggest tuberculous disease.
   - ABG: 7.46 / 37 / 166
   Allergies:
   Codeine
   Nausea/Vomiting
   Penicillins
   Rash;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2185-11-28**] 01:46 AM
   Vancomycin - [**2185-11-28**] 04:59 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-11-28**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**87**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.3
C (97.3
   HR: 62 (48 - 88) bpm
   BP: 126/60(83) {85/42(59) - 136/86(96)} mmHg
   RR: 15 (14 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,997 mL
                                                                    440 mL
   PO:
             TF:
   IVF:
                                                                  1,917 mL
                                                                    440 mL
   Blood products:
   Total out:
                                                                  1,870 mL
                                                                    145 mL
   Urine:
                                                                  1,870 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    127 mL
                                                                    295 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   Compliance: 60 cmH2O/mL
   SpO2: 98%
   ABG: 7.57/29/72/24/4
   Ve: 8.1 L/min
   PaO2 / FiO2: 144
   Physical Examination
   General: Chronically ill appearing. Alert. Intubated.  NG tube in
   place.
   HEENT: Sclera anicteric, Dry Mucous Membranes,, oropharynx clear.
   Neck: supple, JVD flat, no LAD
   Lungs: Anterior lung fields with good air movement bilaterally.
   Course.
   CV: Regular rate and rhythm, normal S1 + S2, soft SM at apex.  , +BS,
   no rebound tenderness or guarding.
   Abdomen: soft, non-tender, mild distension
   Ext: warm, well perfused, 2+ LE edema.
   Neuro: alert with sedation weaned.
   Labs / Radiology
   121 K/uL
   10.8 g/dL
   122 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.5 mEq/L
   12 mg/dL
   111 mEq/L
   140 mEq/L
   32.0 %
   6.0 K/uL
        [image002.jpg]
                             [**2185-11-26**]  11:00 AM
                             [**2185-11-26**]  05:20 PM
                             [**2185-11-26**]  05:27 PM
                             [**2185-11-26**]  11:02 PM
                             [**2185-11-26**]  11:40 PM
                             [**2185-11-27**]  05:03 AM
                             [**2185-11-27**]  05:36 AM
                             [**2185-11-27**]  03:16 PM
                             [**2185-11-28**]  04:27 AM
                             [**2185-11-28**]  05:12 AM
   WBC
   14.5
   6.0
   Hct
   34.7
   33.5
   35.1
   37.1
   35.1
   32.0
   Plt
   114
   101
   121
   Cr
   0.7
   0.5
   TCO2
   25
   28
   27
   27
   Glucose
   121
   122
   Other labs: PT / PTT / INR:16.1/31.2/1.4, ALT / AST:31/43, Alk Phos / T
   Bili:49/1.4, Differential-Neuts:80.0 %, Band:0.0 %, Lymph:7.0 %,
   Mono:13.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L, Albumin:1.8 g/dL,
   LDH:247 IU/L, Ca++:6.5 mg/dL, Mg++:1.5 mg/dL, PO4:1.9 mg/dL
   [**11-27**] CXR
 ETT terminates 2.6 above the carina. NGT in stomach.
   Unchanged bilateral filtrates, left worse than right.
   [**11-27**] CT
 1. Bilateral pleural effusions as well as ascites, most
   likely a sequela of the patient's known cirrhosis. 2. Dependent
   consolidations and ground-glass density as above. In the setting of
   effusions, these are most likely a component of atelectasis, with
   possible superimposed infectious component. This should be placed in
   context to the clinical presentation. 3. No CT evidence to suggest
   tuberculous disease.
   [**11-26**] Blood culture x2
 Pending
   [**11-26**] Urine culture
 Pending
   [**11-25**] BAL
 Polymorphonuclear leukocytes; Respiratory culture
 pending,
   no growth to date; Fungal culture
 pending; Acid fast
 culture
   pending, no acid fast bacilli seen on direct smear
   Assessment and Plan
   55M with EtOH/HCV cirrhosis, admitted to OSH with variceal bleed,
   transferred back to [**Hospital1 1**] MICU for management of recurrent GI
   bleeding.
   .
   # Upper vs Lower GI bleed:  In cirrhotic patient with known esophageal
   varices, which were banded on [**11-21**]. Colonoscopy on [**11-21**] at OSH negative
   for source of bleeding. No obvious bleeding over the last 2-3 days. No
   transfusion required.
   - TIPS repeat attempt most likely Monday
   - FU GI Recs
   - hold nadolol in the setting of acute bleed
   - NPO.
   - PPI gtt.
   - Octreotide gtt.
   - Meropenem for SBP prophylaxis during bleed (has cephalosporin
   allergy).  (Meropenem for broad spectrum coverage for HAP)
   - Keep INR < 1.5, platelets > 50, Hct >30.
   - [**Hospital1 **] HCT
   .
   # Intubation sp Procedure: Blood on suction yesterday. With some
   bleeding in left lower lobe indentified on Bronch.
   - CT chest today.
   - Plan to maintain intubation with hopes for repeat tips tomorrow.
   - DC propofol given hypotension and switch to versed/fentanyl
   - DC phenylephrine.
   .
   # Fever/Leukocytosis: Currently being treated for HAP. CXR this AM with
   stable findings. White count trending down. Patient did spike
   temperature yesterday, however this could be secondary to blood
   aspiration.
   - Continue Vancomycin and Meropenem -day 1 =
   - Vanc Trough
   - FU CXR AM
   - Sputum cultures with intubation.
   - FU Blood Cultures
   - FU Urine Cultures
   - C. Diff Toxin
   - Consider double coverage for pseudomonas if decompensates.
   ..
   # Hepatic encephalopathy. Per OSH report has been encephalopathic,
   however today patient does not appear encephalopathic, no asterixis.
   Diagnostic paracentesis on this admission negative for SBP.
   - Continue lactulose/rifaximin once taking PO.
   .
   # ESLD. Hep C and EtOH as above. Actively drinking.  HCV VL as above.
   - Diuretic regimen sp TIPS today.
   - IR will evaluate for therapeutic tap during procedure, Albumin if
   Large Volume sp Tap, Fu with IR
   - Management of varices as above.
   - Continue lactulose/rifaximin once taking Pos.
   - FU hepatology notes.
   .
   # Dyspnea: Continue Vancomycin and Meropenem for hospital acquired
   pneumonia. Diuresis sp TIPS.
   - continue Vancomycin and Meropenem -day 1 =
   - Extubate today
   - Continue O2 therapy.
   - Lasix  once blood pressure stablilizes sp procedure.
   .
   # EtOH abuse.
   - thiamine and folate.
   .
   # Tobacco abuse.
   - Nicotine patch.
   .
   # FEN: No IVF, replete electrolytes, NPO
   # Prophylaxis: boots, PPI.
   # Access: peripherals - 18 gauge x 2
   # Communication: Patient and Sister, [**Name (NI) **], [**Telephone/Fax (1) 10277**]
   # Code: Full (confirmed with patient)
   # Disposition: ICU pending clinical improvement
   Events: Hemoptysis with increased O2 requirement, few hundred cc
   fresh blood and clots on left, superior segment LLL and lingual.  BAL
   sent.
   Bleeding improved overnight.
   Spiked
 blood cultures drawn.
   Propfol and levophed off this AM.
   Tm 101.2, Tc98.5, P50-80 BP 89/44-140/80.
   A/C 600x14/5/70%: 7.46/37/166: I/O +900cc.
   Exam: intubated, sedated.  Coarse breath sounds L > R.  minimal bloody
   secretions from ETT.
   WBC 14.5<-21, Hct 37, Plt 121.
   Chem-10 stable, wnl.
   CXR worsened consolidation L.
   55 y/o varices s/p failed TIPs, aspiration pna, hypoxemia and
   hemoptysis.
   Etiology of hemoptysis unclear
 given clear CXR, new infiltrate, not
   profoundly coagulopathic, seems most likely pna though amount of
   hemorrhage without coagulopathy is concerning.  Will check chest CT
   non-con today.  Currently on Vanc meropenem.  Wean PSV as able, but
   will likely keep intubated for planned TIPs on Monday.
   Varcieal bleed
 for repeat TIPs likely Monday.  Hcts are stable.
   Pressor requirements correlates with propofol, now both off.  C/o
   anxiety, will try PRN versed, fentanyl, zyprexa.
   Access is 4 PIVs, for now hold off on CVL unless recurrent pressor
   requirement or further instability.
   Remainder of plan as outlined above.
   Patient is critically ill
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2185-11-25**] 07:06 PM
   20 Gauge - [**2185-11-25**] 09:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2185-11-29 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ESLD, Variceal Bleed sp TIPS
   24 Hour Events:
   - IR successful in placing TIPS; came back from PACU around 1900 on Neo
   and Propofol; they took off nearly 3.5L ascities; they also placed a
   central line in RIJ
   - Gave albumin s/p paracentesis and sodium bicarb/acetylcysteine to
   prevent contrast induced nephropathy
   - Peripheral IV x4 in for 4 days and removed; patient now with PIV x3
   (~20 gauge), RIJ, left a-line
   - UOP was a concern during the afternoon, but had improved throughout
   the day
   - Patient was changed to CPAP/PSV at 5/5 overnight and tolerated it
   well
   - Hct stable
   - Patient with abdominal pain at 2am; noting that it has been constant
   since weaned off propofol after procedure; managed by increasing
   fentanyl
   Allergies:
   Codeine
   Nausea/Vomiting
   Penicillins
   Rash;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-11-29**] 04:27 AM
   Meropenem - [**2185-11-29**] 06:27 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-11-29**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**87**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.5
   HR: 70 (55 - 85) bpm
   BP: 125/54(78) {86/43(60) - 140/62(86)} mmHg
   RR: 13 (8 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
           Total In:
                                                                  3,989 mL
                                                                  1,475 mL
   PO:
           TF:
   IVF:
                                                                  3,989 mL
                                                                  1,375 mL
   Blood products:
   100 mL
   Total out:
                                                                  4,565 mL
                                                                    380 mL
   Urine:
                                                                    335 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
                                                                  4,000 mL
   Balance:
                                                                   -576 mL
                                                                  1,095 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 500 (500 - 600) mL
   Vt (Spontaneous): 975 (1 - 1,124) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 10
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 16
   PIP: 10 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.55/30/103/25/5
   Ve: 9 L/min
   PaO2 / FiO2: 206
   Physical Examination
   General: Chronically ill appearing. Alert. Intubated.  NG tube in
   place.
   HEENT: Sclera anicteric, Dry Mucous Membranes,, oropharynx clear.
   Neck: supple, JVD flat, no LAD
   Lungs: Anterior lung fields with good air movement bilaterally.
   Course.
   CV: Regular rate and rhythm, normal S1 + S2, soft SM at apex.  , +BS,
   no rebound tenderness or guarding.
   Abdomen: soft, non-tender, mild distension
   Ext: warm, well perfused, 2+ LE edema.
   Neuro: alert with sedation weaned.
   Labs / Radiology
   57 K/uL
   10.6 g/dL
   137 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.1 mEq/L
   11 mg/dL
   110 mEq/L
   139 mEq/L
   31.3 %
   8.0 K/uL
        [image002.jpg]
                             [**2185-11-26**]  11:40 PM
                             [**2185-11-27**]  05:03 AM
                             [**2185-11-27**]  05:36 AM
                             [**2185-11-27**]  03:16 PM
                             [**2185-11-28**]  04:27 AM
                             [**2185-11-28**]  05:12 AM
                             [**2185-11-28**]  07:45 PM
                             [**2185-11-28**]  07:46 PM
                             [**2185-11-29**]  03:59 AM
                             [**2185-11-29**]  06:53 AM
   WBC
   14.5
   6.0
   8.0
   Hct
   37.1
   35.1
   32.0
   35.3
   31.3
   Plt
   121
   75
   73
   57
   Cr
   0.7
   0.5
   0.5
   0.6
   TCO2
   28
   27
   27
   27
   Glucose
   121
   122
   123
   137
   Other labs: PT / PTT / INR:16.5/34.9/1.5, ALT / AST:31/43, Alk Phos / T
   Bili:49/1.4, Differential-Neuts:80.0 %, Band:0.0 %, Lymph:7.0 %,
   Mono:13.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L, Albumin:1.8 g/dL,
   LDH:247 IU/L, Ca++:7.1 mg/dL, Mg++:1.7 mg/dL, PO4:1.8 mg/dL
   Vancomycin: 18.5
   Imaging: CXR: Pending
   Abd: Pending
   Microbiology: Blood ([**11-26**]): NGTD
   Urine ([**11-26**]): NGTD
   BAL: NGTD
   Assessment and Plan
   55M with EtOH/HCV cirrhosis, admitted to OSH with variceal bleed,
   transferred back to [**Hospital1 1**] MICU for management of recurrent GI
   bleeding.
   .
   # Upper vs Lower GI bleed:  In cirrhotic patient with known esophageal
   varices, which were banded on [**11-21**]. Colonoscopy on [**11-21**] at OSH negative
   for source of bleeding. No obvious bleeding over the last 2-3 days. No
   transfusion required.
   - Follow up TIPS today
   - Follow GI Recs
   - Hold nadolol in the setting of acute bleed
   - NPO
   - Continue PPI gtt, Octreotide gtt
   - Continue Meropenem for SBP prophylaxis during bleed (has
   cephalosporin allergy; Meropenem also has broad spectrum coverage for
   HAP)
   - Keep INR < 1.5, platelets > 50, Hct >30.
   - Continue [**Hospital1 **] Hct
   .
   # Dyspnea; Intubation s/p procedure: Blood on suction yesterday. With
   some bleeding in left lower lobe indentified on bronch.
   - Plan to maintain intubation; hope to extubated s/p TIPS
   - Discontinue midazolam
   - Fentanyl/propofol prn
   - Continue Vancomycin and Meropenem - day 2 of 4
   - Continue O2 therapy
   - Restart lasix once BP stabilize s/p procedure
   .
   # Fever/Leukocytosis: Currently being treated for HAP. CXR this AM with
   stable findings. White count trending down. Patient did spike
   temperature yesterday, however this could be secondary to blood
   aspiration.
   - Continue Vancomycin and Meropenem - day 2 of 4
   - Obtain vanc trough
   - Follow up daily AM CXR
   - Follow up cultures including c. diff
   - Consider double coverage for pseudomonas if decompensates
   .
   # Hepatic encephalopathy. Per OSH report has been encephalopathic,
   however today patient does not appear encephalopathic, no asterixis.
   Diagnostic paracentesis on this admission negative for SBP.
   - Continue lactulose/rifaximin once taking PO (likely to be for
   tomorrow)
   .
   # ESLD. Hep C and EtOH as above. Actively drinking.  HCV VL as above.
   - Restart lasix once BP stabilize s/p procedure
   - Management of varices as above
   - Continue lactulose/rifaximin once taking PO (likely to be for
   tomorrow)
   - Follow up GI/hepatology
   .
   # EtOH abuse.
   - Continue thiamine and folate.
   .
   # Tobacco abuse.
   - Nicotine patch.
   .
   # FEN: No IVF, replete electrolytes, NPO
   # Prophylaxis: boots, PPI.
   # Access: peripherals
 20 gauge x3, IJ to be inserted during TIPS
   # Communication: Patient and Sister, [**Name (NI) **], [**Telephone/Fax (1) 10277**]
   # Code: Full (confirmed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition: NPO
   Lines:
   Arterial Line - [**2185-11-25**] 07:06 PM
   20 Gauge - [**2185-11-28**] 07:00 PM
   Trauma line - [**2185-11-28**] 07:15 PM
   Prophylaxis:
   DVT:  Bppts
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for Now